US05474988
24 g of 2-aminophenol, 55 g of methyl 2,5-dibromovalerate and 30 g of potassium carbonate were heated to reflux for 5 hours in 250 ml of acetone. For work-up, the reaction mixture was diluted with 250 ml of diethyl ether, washed with 200 ml of water and acidified to pH=1 using 12N hydrochloric acid solution. The organic phase was separated, washed twice with 100 ml of water each time, dried and evaporated. The residue was crystallized from methanol. 11 g of 2-(3-bromopropyl)-2H-1,4-benzoxazin-3(4H)one were obtained.

reactant | 2-aminophenol | 24 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | methyl 2,5-dibromovalerate | 55 g | BrC(C(=O)OC)CCCBr | C6H10Br2O2
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 2-(3-bromopropyl)-2H-1,4-benzoxazin-3(4H)one | 11 g | BrCCCC1OC2=C(NC1=O)C=CC=C2 | C11H12BrNO2
